* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2 p3 p4
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.003773622994610441
Fd1_1 0 s1 V1 -0.18868114973052205
Gr1_re_1_1 0 s1 x1_re_a1 0 3201288254.964632
Gr1_im_1_1 0 s1 x1_im_a1 0 954723892.0772065
Gr2_re_1_1 0 s1 x2_re_a1 0 142826452.21865028
Gr2_im_1_1 0 s1 x2_im_a1 0 201846438.4333505
Gr3_re_1_1 0 s1 x3_re_a1 0 3804609885.126946
Gr3_im_1_1 0 s1 x3_im_a1 0 -2806297023.6830873
Gr4_re_1_1 0 s1 x4_re_a1 0 -85951149.90427648
Gr4_im_1_1 0 s1 x4_im_a1 0 55088352.9521404
Gr5_re_1_1 0 s1 x5_re_a1 0 486618.61597685266
Gr5_im_1_1 0 s1 x5_im_a1 0 -1407438.3165926652
Gr6_1_1 0 s1 x6_a1 0 -537782.5097862531
Gr7_re_1_1 0 s1 x7_re_a1 0 -423696.140957331
Gr7_im_1_1 0 s1 x7_im_a1 0 -79235.91450340986
Gr8_re_1_1 0 s1 x8_re_a1 0 2483350.268099888
Gr8_im_1_1 0 s1 x8_im_a1 0 216207.61835987982
Gd1_2 0 s1 p2 0 1.8361730441693343e-05
Fd1_2 0 s1 V2 0.0009180865220846672
Gr1_re_1_2 0 s1 x1_re_a2 0 -2530856.4457992087
Gr1_im_1_2 0 s1 x1_im_a2 0 -3808117.5737760873
Gr2_re_1_2 0 s1 x2_re_a2 0 10309761.074367875
Gr2_im_1_2 0 s1 x2_im_a2 0 4355398.815324961
Gr3_re_1_2 0 s1 x3_re_a2 0 -44806827.15835549
Gr3_im_1_2 0 s1 x3_im_a2 0 -51885296.731730714
Gr4_re_1_2 0 s1 x4_re_a2 0 -12192094.505368877
Gr4_im_1_2 0 s1 x4_im_a2 0 7980864.471310119
Gr5_re_1_2 0 s1 x5_re_a2 0 426635.3491042282
Gr5_im_1_2 0 s1 x5_im_a2 0 -1049468.867528268
Gr6_1_2 0 s1 x6_a2 0 -515812.55696268077
Gr7_re_1_2 0 s1 x7_re_a2 0 373814.8641291642
Gr7_im_1_2 0 s1 x7_im_a2 0 -770860.3718890663
Gr8_re_1_2 0 s1 x8_re_a2 0 305238.73899130075
Gr8_im_1_2 0 s1 x8_im_a2 0 -560104.6812849365
Gd1_3 0 s1 p3 0 -3.140257384101316e-05
Fd1_3 0 s1 V3 -0.0015701286920506584
Gr1_re_1_3 0 s1 x1_re_a3 0 2726881.7389510875
Gr1_im_1_3 0 s1 x1_im_a3 0 10109924.181668656
Gr2_re_1_3 0 s1 x2_re_a3 0 -1634047.9021437862
Gr2_im_1_3 0 s1 x2_im_a3 0 278415.5795866453
Gr3_re_1_3 0 s1 x3_re_a3 0 50405655.42509744
Gr3_im_1_3 0 s1 x3_im_a3 0 49800046.90788754
Gr4_re_1_3 0 s1 x4_re_a3 0 948383.8103313736
Gr4_im_1_3 0 s1 x4_im_a3 0 -266325.86141645734
Gr5_re_1_3 0 s1 x5_re_a3 0 -9728282.876583865
Gr5_im_1_3 0 s1 x5_im_a3 0 10096134.993101459
Gr6_1_3 0 s1 x6_a3 0 23991709.934787806
Gr7_re_1_3 0 s1 x7_re_a3 0 1250822.915268457
Gr7_im_1_3 0 s1 x7_im_a3 0 21698768.601961885
Gr8_re_1_3 0 s1 x8_re_a3 0 22589088.161621917
Gr8_im_1_3 0 s1 x8_im_a3 0 17415217.42975989
Gd1_4 0 s1 p4 0 -1.1441908988445152e-07
Fd1_4 0 s1 V4 -5.720954494222576e-06
Gr1_re_1_4 0 s1 x1_re_a4 0 -565.47219873303
Gr1_im_1_4 0 s1 x1_im_a4 0 34244.34315077606
Gr2_re_1_4 0 s1 x2_re_a4 0 -5987.489775000952
Gr2_im_1_4 0 s1 x2_im_a4 0 1445.4223872514706
Gr3_re_1_4 0 s1 x3_re_a4 0 189777.60263892292
Gr3_im_1_4 0 s1 x3_im_a4 0 201757.13393330906
Gr4_re_1_4 0 s1 x4_re_a4 0 3690.9755452286026
Gr4_im_1_4 0 s1 x4_im_a4 0 -830.4152901762559
Gr5_re_1_4 0 s1 x5_re_a4 0 -19495.07787406636
Gr5_im_1_4 0 s1 x5_im_a4 0 57949.21280255345
Gr6_1_4 0 s1 x6_a4 0 34381.22422184896
Gr7_re_1_4 0 s1 x7_re_a4 0 14519.281243253554
Gr7_im_1_4 0 s1 x7_im_a4 0 86358.62186487191
Gr8_re_1_4 0 s1 x8_re_a4 0 92087.33306610423
Gr8_im_1_4 0 s1 x8_im_a4 0 59875.420018834855
*
* State networks driven by port 1
Cx1_re_a1 x1_re_a1 0 1.0
Gx1_re_a1 0 x1_re_a1 p1 0 0.1414213562373095
Fx1_re_a1 0 x1_re_a1 V1 7.0710678118654755
Rp1_re_re_a1 0 x1_re_a1 5.656099523028726e-11
Gp1_re_im_a1 0 x1_re_a1 x1_im_a1 0 274891932718.9357
Cx1_im_a1 x1_im_a1 0 1.0
Gp1_im_re_a1 0 x1_im_a1 x1_re_a1 0 -274891932718.9357
Rp1_im_im_a1 0 x1_im_a1 5.656099523028726e-11
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 3.7969162030373554e-10
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 181012346180.185
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -181012346180.185
Rp2_im_im_a1 0 x2_im_a1 3.7969162030373554e-10
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 1.627628402022312e-11
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 148802727040.73685
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -148802727040.73685
Rp3_im_im_a1 0 x3_im_a1 1.627628402022312e-11
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 1.0646375318834093e-09
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 97586624033.14746
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -97586624033.14746
Rp4_im_im_a1 0 x4_im_a1 1.0646375318834093e-09
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 2.107635255400134e-08
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 1602697825.6270552
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -1602697825.6270552
Rp5_im_im_a1 0 x5_im_a1 2.107635255400134e-08
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 1.751230760539869e-08
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.1414213562373095
Fx7_re_a1 0 x7_re_a1 V1 7.0710678118654755
Rp7_re_re_a1 0 x7_re_a1 1.7417078319134196e-08
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 791675849.8813201
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -791675849.8813201
Rp7_im_im_a1 0 x7_im_a1 1.7417078319134196e-08
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.1414213562373095
Fx8_re_a1 0 x8_re_a1 V1 7.0710678118654755
Rp8_re_re_a1 0 x8_re_a1 1.6350560524740535e-08
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 388357403.4016997
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -388357403.4016997
Rp8_im_im_a1 0 x8_im_a1 1.6350560524740535e-08
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 1.8475988761873967e-05
Fd2_1 0 s2 V1 0.0009237994380936984
Gr1_re_2_1 0 s2 x1_re_a1 0 -2561061.7232787805
Gr1_im_2_1 0 s2 x1_im_a1 0 -3783483.8910457706
Gr2_re_2_1 0 s2 x2_re_a1 0 10319052.12263938
Gr2_im_2_1 0 s2 x2_im_a1 0 4333144.405788481
Gr3_re_2_1 0 s2 x3_re_a1 0 -44959925.35165678
Gr3_im_2_1 0 s2 x3_im_a1 0 -51794716.62813243
Gr4_re_2_1 0 s2 x4_re_a1 0 -12168777.289020019
Gr4_im_2_1 0 s2 x4_im_a1 0 7990996.514765872
Gr5_re_2_1 0 s2 x5_re_a1 0 429140.50734725315
Gr5_im_2_1 0 s2 x5_im_a1 0 -1049042.910491532
Gr6_2_1 0 s2 x6_a1 0 -830774.5718377194
Gr7_re_2_1 0 s2 x7_re_a1 0 308134.96102455666
Gr7_im_2_1 0 s2 x7_im_a1 0 -771422.6083146862
Gr8_re_2_1 0 s2 x8_re_a1 0 525407.1639241806
Gr8_im_2_1 0 s2 x8_im_a1 0 -560677.3735440652
Gd2_2 0 s2 p2 0 -0.0037719145091961543
Fd2_2 0 s2 V2 -0.18859572545980774
Gr1_re_2_2 0 s2 x1_re_a2 0 3136551107.6986485
Gr1_im_2_2 0 s2 x1_im_a2 0 1216114147.9654126
Gr2_re_2_2 0 s2 x2_re_a2 0 134189937.17924803
Gr2_im_2_2 0 s2 x2_im_a2 0 220863514.51699224
Gr3_re_2_2 0 s2 x3_re_a2 0 4312886807.507811
Gr3_im_2_2 0 s2 x3_im_a2 0 -2710293051.904415
Gr4_re_2_2 0 s2 x4_re_a2 0 -96938938.08685571
Gr4_im_2_2 0 s2 x4_im_a2 0 56537729.36268248
Gr5_re_2_2 0 s2 x5_re_a2 0 759694.4834642418
Gr5_im_2_2 0 s2 x5_im_a2 0 -1271226.935859011
Gr6_2_2 0 s2 x6_a2 0 1329991.2991801966
Gr7_re_2_2 0 s2 x7_re_a2 0 209342.41871739386
Gr7_im_2_2 0 s2 x7_im_a2 0 109377.87238855248
Gr8_re_2_2 0 s2 x8_re_a2 0 1946080.0051553093
Gr8_im_2_2 0 s2 x8_im_a2 0 427105.27168171294
Gd2_3 0 s2 p3 0 -1.2631292489431855e-07
Fd2_3 0 s2 V3 -6.315646244715927e-06
Gr1_re_2_3 0 s2 x1_re_a3 0 10473.060839225242
Gr1_im_2_3 0 s2 x1_im_a3 0 35625.7649363487
Gr2_re_2_3 0 s2 x2_re_a3 0 -5599.515146828659
Gr2_im_2_3 0 s2 x2_im_a3 0 -82.68861845322151
Gr3_re_2_3 0 s2 x3_re_a3 0 184451.87525067126
Gr3_im_2_3 0 s2 x3_im_a3 0 199995.49027153093
Gr4_re_2_3 0 s2 x4_re_a3 0 3866.4669019871626
Gr4_im_2_3 0 s2 x4_im_a3 0 -297.43556873671116
Gr5_re_2_3 0 s2 x5_re_a3 0 -19841.259528780018
Gr5_im_2_3 0 s2 x5_im_a3 0 57315.91079092126
Gr6_2_3 0 s2 x6_a3 0 35033.72459482279
Gr7_re_2_3 0 s2 x7_re_a3 0 11409.220475749085
Gr7_im_2_3 0 s2 x7_im_a3 0 88960.95044298178
Gr8_re_2_3 0 s2 x8_re_a3 0 97486.61170127228
Gr8_im_2_3 0 s2 x8_im_a3 0 63797.05165200096
Gd2_4 0 s2 p4 0 -3.150904989139105e-05
Fd2_4 0 s2 V4 -0.0015754524945695526
Gr1_re_2_4 0 s2 x1_re_a4 0 2744220.491209016
Gr1_im_2_4 0 s2 x1_im_a4 0 10149446.537192523
Gr2_re_2_4 0 s2 x2_re_a4 0 -1635106.2207118198
Gr2_im_2_4 0 s2 x2_im_a4 0 280929.2484080347
Gr3_re_2_4 0 s2 x3_re_a4 0 50544473.87928759
Gr3_im_2_4 0 s2 x3_im_a4 0 49919163.004421435
Gr4_re_2_4 0 s2 x4_re_a4 0 951907.0205623918
Gr4_im_2_4 0 s2 x4_im_a4 0 -267465.1888797847
Gr5_re_2_4 0 s2 x5_re_a4 0 -9647742.910223337
Gr5_im_2_4 0 s2 x5_im_a4 0 10097381.551516226
Gr6_2_4 0 s2 x6_a4 0 23965477.362239696
Gr7_re_2_4 0 s2 x7_re_a4 0 1284221.3723293329
Gr7_im_2_4 0 s2 x7_im_a4 0 21643355.103246413
Gr8_re_2_4 0 s2 x8_re_a4 0 22545917.237932697
Gr8_im_2_4 0 s2 x8_im_a4 0 17363907.61523403
*
* State networks driven by port 2
Cx1_re_a2 x1_re_a2 0 1.0
Gx1_re_a2 0 x1_re_a2 p2 0 0.1414213562373095
Fx1_re_a2 0 x1_re_a2 V2 7.0710678118654755
Rp1_re_re_a2 0 x1_re_a2 5.656099523028726e-11
Gp1_re_im_a2 0 x1_re_a2 x1_im_a2 0 274891932718.9357
Cx1_im_a2 x1_im_a2 0 1.0
Gp1_im_re_a2 0 x1_im_a2 x1_re_a2 0 -274891932718.9357
Rp1_im_im_a2 0 x1_im_a2 5.656099523028726e-11
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 3.7969162030373554e-10
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 181012346180.185
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -181012346180.185
Rp2_im_im_a2 0 x2_im_a2 3.7969162030373554e-10
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 1.627628402022312e-11
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 148802727040.73685
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -148802727040.73685
Rp3_im_im_a2 0 x3_im_a2 1.627628402022312e-11
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 1.0646375318834093e-09
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 97586624033.14746
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -97586624033.14746
Rp4_im_im_a2 0 x4_im_a2 1.0646375318834093e-09
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 2.107635255400134e-08
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 1602697825.6270552
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -1602697825.6270552
Rp5_im_im_a2 0 x5_im_a2 2.107635255400134e-08
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 1.751230760539869e-08
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.1414213562373095
Fx7_re_a2 0 x7_re_a2 V2 7.0710678118654755
Rp7_re_re_a2 0 x7_re_a2 1.7417078319134196e-08
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 791675849.8813201
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -791675849.8813201
Rp7_im_im_a2 0 x7_im_a2 1.7417078319134196e-08
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.1414213562373095
Fx8_re_a2 0 x8_re_a2 V2 7.0710678118654755
Rp8_re_re_a2 0 x8_re_a2 1.6350560524740535e-08
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 388357403.4016997
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -388357403.4016997
Rp8_im_im_a2 0 x8_im_a2 1.6350560524740535e-08
*
* Port network for port 3
V3 p3 s3 0
R3 s3 0 50.0
Gd3_1 0 s3 p1 0 -3.14411902673817e-05
Fd3_1 0 s3 V1 -0.0015720595133690849
Gr1_re_3_1 0 s3 x1_re_a1 0 2746178.7072818503
Gr1_im_3_1 0 s3 x1_im_a1 0 10120832.989964092
Gr2_re_3_1 0 s3 x2_re_a1 0 -1633130.3820386606
Gr2_im_3_1 0 s3 x2_im_a1 0 280285.06046039495
Gr3_re_3_1 0 s3 x3_re_a1 0 50435110.8282439
Gr3_im_3_1 0 s3 x3_im_a1 0 49795620.20106711
Gr4_re_3_1 0 s3 x4_re_a1 0 948779.6729545696
Gr4_im_3_1 0 s3 x4_im_a1 0 -266262.93635135907
Gr5_re_3_1 0 s3 x5_re_a1 0 -9673441.903070822
Gr5_im_3_1 0 s3 x5_im_a1 0 10094098.477557167
Gr6_3_1 0 s3 x6_a1 0 19356804.42068204
Gr7_re_3_1 0 s3 x7_re_a1 0 284029.38981980126
Gr7_im_3_1 0 s3 x7_im_a1 0 21670996.26594594
Gr8_re_3_1 0 s3 x8_re_a1 0 25810366.56301309
Gr8_im_3_1 0 s3 x8_im_a1 0 17398250.283829875
Gd3_2 0 s3 p2 0 -1.1743087930148025e-07
Fd3_2 0 s3 V2 -5.871543965074013e-06
Gr1_re_3_2 0 s3 x1_re_a2 0 7452.424103544731
Gr1_im_3_2 0 s3 x1_im_a2 0 28940.110710868805
Gr2_re_3_2 0 s3 x2_re_a2 0 -5915.30982260971
Gr2_im_3_2 0 s3 x2_im_a2 0 -8.680671606658509
Gr3_re_3_2 0 s3 x3_re_a2 0 186655.359346241
Gr3_im_3_2 0 s3 x3_im_a2 0 205971.9552409512
Gr4_re_3_2 0 s3 x4_re_a2 0 3456.605152890035
Gr4_im_3_2 0 s3 x4_im_a2 0 -473.98016324469705
Gr5_re_3_2 0 s3 x5_re_a2 0 -19767.6985629637
Gr5_im_3_2 0 s3 x5_im_a2 0 57187.94555136168
Gr6_3_2 0 s3 x6_a2 0 34298.54965390661
Gr7_re_3_2 0 s3 x7_re_a2 0 11234.993701490946
Gr7_im_3_2 0 s3 x7_im_a2 0 88856.859618279
Gr8_re_3_2 0 s3 x8_re_a2 0 97789.3300040653
Gr8_im_3_2 0 s3 x8_im_a2 0 63879.479217432694
Gd3_3 0 s3 p3 0 0.000536341441009312
Fd3_3 0 s3 V3 0.0268170720504656
Gr1_re_3_3 0 s3 x1_re_a3 0 -332712959.6431822
Gr1_im_3_3 0 s3 x1_im_a3 0 33690870.264338136
Gr2_re_3_3 0 s3 x2_re_a3 0 5804554.038377363
Gr2_im_3_3 0 s3 x2_im_a3 0 11291281.706955837
Gr3_re_3_3 0 s3 x3_re_a3 0 -718951324.7083333
Gr3_im_3_3 0 s3 x3_im_a3 0 309827196.58913493
Gr4_re_3_3 0 s3 x4_re_a3 0 10325694.03287256
Gr4_im_3_3 0 s3 x4_im_a3 0 8606048.499628095
Gr5_re_3_3 0 s3 x5_re_a3 0 -739710.2355387037
Gr5_im_3_3 0 s3 x5_im_a3 0 51250.84815439705
Gr6_3_3 0 s3 x6_a3 0 -432453.88986944506
Gr7_re_3_3 0 s3 x7_re_a3 0 -890537.8625733942
Gr7_im_3_3 0 s3 x7_im_a3 0 113934.34014502482
Gr8_re_3_3 0 s3 x8_re_a3 0 714364.9418758071
Gr8_im_3_3 0 s3 x8_im_a3 0 229353.22203766793
Gd3_4 0 s3 p4 0 -9.936093655325985e-07
Fd3_4 0 s3 V4 -4.968046827662993e-05
Gr1_re_3_4 0 s3 x1_re_a4 0 188975.024365936
Gr1_im_3_4 0 s3 x1_im_a4 0 209424.84891232938
Gr2_re_3_4 0 s3 x2_re_a4 0 -41102.884371710184
Gr2_im_3_4 0 s3 x2_im_a4 0 23808.02703472312
Gr3_re_3_4 0 s3 x3_re_a4 0 1323539.488505763
Gr3_im_3_4 0 s3 x3_im_a4 0 794588.1154457165
Gr4_re_3_4 0 s3 x4_re_a4 0 8853.414298314538
Gr4_im_3_4 0 s3 x4_im_a4 0 11836.44770962348
Gr5_re_3_4 0 s3 x5_re_a4 0 -610382.5718719843
Gr5_im_3_4 0 s3 x5_im_a4 0 262887.78074414446
Gr6_3_4 0 s3 x6_a4 0 328432.7730406335
Gr7_re_3_4 0 s3 x7_re_a4 0 66718.9615988721
Gr7_im_3_4 0 s3 x7_im_a4 0 761791.5843635447
Gr8_re_3_4 0 s3 x8_re_a4 0 892478.0981953671
Gr8_im_3_4 0 s3 x8_im_a4 0 395151.7443781229
*
* State networks driven by port 3
Cx1_re_a3 x1_re_a3 0 1.0
Gx1_re_a3 0 x1_re_a3 p3 0 0.1414213562373095
Fx1_re_a3 0 x1_re_a3 V3 7.0710678118654755
Rp1_re_re_a3 0 x1_re_a3 5.656099523028726e-11
Gp1_re_im_a3 0 x1_re_a3 x1_im_a3 0 274891932718.9357
Cx1_im_a3 x1_im_a3 0 1.0
Gp1_im_re_a3 0 x1_im_a3 x1_re_a3 0 -274891932718.9357
Rp1_im_im_a3 0 x1_im_a3 5.656099523028726e-11
Cx2_re_a3 x2_re_a3 0 1.0
Gx2_re_a3 0 x2_re_a3 p3 0 0.1414213562373095
Fx2_re_a3 0 x2_re_a3 V3 7.0710678118654755
Rp2_re_re_a3 0 x2_re_a3 3.7969162030373554e-10
Gp2_re_im_a3 0 x2_re_a3 x2_im_a3 0 181012346180.185
Cx2_im_a3 x2_im_a3 0 1.0
Gp2_im_re_a3 0 x2_im_a3 x2_re_a3 0 -181012346180.185
Rp2_im_im_a3 0 x2_im_a3 3.7969162030373554e-10
Cx3_re_a3 x3_re_a3 0 1.0
Gx3_re_a3 0 x3_re_a3 p3 0 0.1414213562373095
Fx3_re_a3 0 x3_re_a3 V3 7.0710678118654755
Rp3_re_re_a3 0 x3_re_a3 1.627628402022312e-11
Gp3_re_im_a3 0 x3_re_a3 x3_im_a3 0 148802727040.73685
Cx3_im_a3 x3_im_a3 0 1.0
Gp3_im_re_a3 0 x3_im_a3 x3_re_a3 0 -148802727040.73685
Rp3_im_im_a3 0 x3_im_a3 1.627628402022312e-11
Cx4_re_a3 x4_re_a3 0 1.0
Gx4_re_a3 0 x4_re_a3 p3 0 0.1414213562373095
Fx4_re_a3 0 x4_re_a3 V3 7.0710678118654755
Rp4_re_re_a3 0 x4_re_a3 1.0646375318834093e-09
Gp4_re_im_a3 0 x4_re_a3 x4_im_a3 0 97586624033.14746
Cx4_im_a3 x4_im_a3 0 1.0
Gp4_im_re_a3 0 x4_im_a3 x4_re_a3 0 -97586624033.14746
Rp4_im_im_a3 0 x4_im_a3 1.0646375318834093e-09
Cx5_re_a3 x5_re_a3 0 1.0
Gx5_re_a3 0 x5_re_a3 p3 0 0.1414213562373095
Fx5_re_a3 0 x5_re_a3 V3 7.0710678118654755
Rp5_re_re_a3 0 x5_re_a3 2.107635255400134e-08
Gp5_re_im_a3 0 x5_re_a3 x5_im_a3 0 1602697825.6270552
Cx5_im_a3 x5_im_a3 0 1.0
Gp5_im_re_a3 0 x5_im_a3 x5_re_a3 0 -1602697825.6270552
Rp5_im_im_a3 0 x5_im_a3 2.107635255400134e-08
Cx6_a3 x6_a3 0 1.0
Gx6_a3 0 x6_a3 p3 0 0.07071067811865475
Fx6_a3 0 x6_a3 V3 3.5355339059327378
Rp6_a3 0 x6_a3 1.751230760539869e-08
Cx7_re_a3 x7_re_a3 0 1.0
Gx7_re_a3 0 x7_re_a3 p3 0 0.1414213562373095
Fx7_re_a3 0 x7_re_a3 V3 7.0710678118654755
Rp7_re_re_a3 0 x7_re_a3 1.7417078319134196e-08
Gp7_re_im_a3 0 x7_re_a3 x7_im_a3 0 791675849.8813201
Cx7_im_a3 x7_im_a3 0 1.0
Gp7_im_re_a3 0 x7_im_a3 x7_re_a3 0 -791675849.8813201
Rp7_im_im_a3 0 x7_im_a3 1.7417078319134196e-08
Cx8_re_a3 x8_re_a3 0 1.0
Gx8_re_a3 0 x8_re_a3 p3 0 0.1414213562373095
Fx8_re_a3 0 x8_re_a3 V3 7.0710678118654755
Rp8_re_re_a3 0 x8_re_a3 1.6350560524740535e-08
Gp8_re_im_a3 0 x8_re_a3 x8_im_a3 0 388357403.4016997
Cx8_im_a3 x8_im_a3 0 1.0
Gp8_im_re_a3 0 x8_im_a3 x8_re_a3 0 -388357403.4016997
Rp8_im_im_a3 0 x8_im_a3 1.6350560524740535e-08
*
* Port network for port 4
V4 p4 s4 0
R4 s4 0 50.0
Gd4_1 0 s4 p1 0 -1.1244143210355137e-07
Fd4_1 0 s4 V1 -5.622071605177569e-06
Gr1_re_4_1 0 s4 x1_re_a1 0 14183.39907761613
Gr1_im_4_1 0 s4 x1_im_a1 0 35635.85759827589
Gr2_re_4_1 0 s4 x2_re_a1 0 -9353.519910649278
Gr2_im_4_1 0 s4 x2_im_a1 0 401.20648596034584
Gr3_re_4_1 0 s4 x3_re_a1 0 182354.96272819926
Gr3_im_4_1 0 s4 x3_im_a1 0 203378.7617473566
Gr4_re_4_1 0 s4 x4_re_a1 0 3396.3246554035977
Gr4_im_4_1 0 s4 x4_im_a1 0 -875.8285628256201
Gr5_re_4_1 0 s4 x5_re_a1 0 -19349.016788155037
Gr5_im_4_1 0 s4 x5_im_a1 0 58018.612125627114
Gr6_4_1 0 s4 x6_a1 0 12271.478718230077
Gr7_re_4_1 0 s4 x7_re_a1 0 9205.366534826764
Gr7_im_4_1 0 s4 x7_im_a1 0 86389.4730086235
Gr8_re_4_1 0 s4 x8_re_a1 0 108565.34214783701
Gr8_im_4_1 0 s4 x8_im_a1 0 60107.275521397496
Gd4_2 0 s4 p2 0 -3.15283179550152e-05
Fd4_2 0 s4 V2 -0.0015764158977507603
Gr1_re_4_2 0 s4 x1_re_a2 0 2734643.577334581
Gr1_im_4_2 0 s4 x1_im_a2 0 10142520.250788076
Gr2_re_4_2 0 s4 x2_re_a2 0 -1635385.8181407799
Gr2_im_4_2 0 s4 x2_im_a2 0 280793.6064687584
Gr3_re_4_2 0 s4 x3_re_a2 0 50562581.0772489
Gr3_im_4_2 0 s4 x3_im_a2 0 49899050.019954525
Gr4_re_4_2 0 s4 x4_re_a2 0 950632.0105012768
Gr4_im_4_2 0 s4 x4_im_a2 0 -267437.1179173237
Gr5_re_4_2 0 s4 x5_re_a2 0 -9642481.190414341
Gr5_im_4_2 0 s4 x5_im_a2 0 10094658.393389212
Gr6_4_2 0 s4 x6_a2 0 23960811.206279382
Gr7_re_4_2 0 s4 x7_re_a2 0 1292912.5791570863
Gr7_im_4_2 0 s4 x7_im_a2 0 21634348.643879235
Gr8_re_4_2 0 s4 x8_re_a2 0 22509740.155017525
Gr8_im_4_2 0 s4 x8_im_a2 0 17347484.92296867
Gd4_3 0 s4 p3 0 -9.993784715195368e-07
Fd4_3 0 s4 V3 -4.9968923575976846e-05
Gr1_re_4_3 0 s4 x1_re_a3 0 200670.58254754456
Gr1_im_4_3 0 s4 x1_im_a3 0 204819.62715908626
Gr2_re_4_3 0 s4 x2_re_a3 0 -39774.81815156275
Gr2_im_4_3 0 s4 x2_im_a3 0 23913.961400273318
Gr3_re_4_3 0 s4 x3_re_a3 0 1328623.8834662333
Gr3_im_4_3 0 s4 x3_im_a3 0 789310.6588553451
Gr4_re_4_3 0 s4 x4_re_a3 0 9123.665682159888
Gr4_im_4_3 0 s4 x4_im_a3 0 11101.43230938987
Gr5_re_4_3 0 s4 x5_re_a3 0 -611103.625218261
Gr5_im_4_3 0 s4 x5_im_a3 0 262951.7486399726
Gr6_4_3 0 s4 x6_a3 0 327996.7893919608
Gr7_re_4_3 0 s4 x7_re_a3 0 66809.00920722939
Gr7_im_4_3 0 s4 x7_im_a3 0 762388.7911754586
Gr8_re_4_3 0 s4 x8_re_a3 0 892115.2946858943
Gr8_im_4_3 0 s4 x8_im_a3 0 395438.949366995
Gd4_4 0 s4 p4 0 0.0007204340544303613
Fd4_4 0 s4 V4 0.03602170272151807
Gr1_re_4_4 0 s4 x1_re_a4 0 -233356981.31019107
Gr1_im_4_4 0 s4 x1_im_a4 0 137364389.02397135
Gr2_re_4_4 0 s4 x2_re_a4 0 35216670.09120777
Gr2_im_4_4 0 s4 x2_im_a4 0 -7621783.884160379
Gr3_re_4_4 0 s4 x3_re_a4 0 -990889809.0156593
Gr3_im_4_4 0 s4 x3_im_a4 0 227244928.73322606
Gr4_re_4_4 0 s4 x4_re_a4 0 10145579.505784767
Gr4_im_4_4 0 s4 x4_im_a4 0 9957690.473146655
Gr5_re_4_4 0 s4 x5_re_a4 0 -891572.4439275726
Gr5_im_4_4 0 s4 x5_im_a4 0 220049.17463329752
Gr6_4_4 0 s4 x6_a4 0 -650638.7070922676
Gr7_re_4_4 0 s4 x7_re_a4 0 -1141247.5149797653
Gr7_im_4_4 0 s4 x7_im_a4 0 61379.70720312075
Gr8_re_4_4 0 s4 x8_re_a4 0 770956.0971032139
Gr8_im_4_4 0 s4 x8_im_a4 0 309291.5540468422
*
* State networks driven by port 4
Cx1_re_a4 x1_re_a4 0 1.0
Gx1_re_a4 0 x1_re_a4 p4 0 0.1414213562373095
Fx1_re_a4 0 x1_re_a4 V4 7.0710678118654755
Rp1_re_re_a4 0 x1_re_a4 5.656099523028726e-11
Gp1_re_im_a4 0 x1_re_a4 x1_im_a4 0 274891932718.9357
Cx1_im_a4 x1_im_a4 0 1.0
Gp1_im_re_a4 0 x1_im_a4 x1_re_a4 0 -274891932718.9357
Rp1_im_im_a4 0 x1_im_a4 5.656099523028726e-11
Cx2_re_a4 x2_re_a4 0 1.0
Gx2_re_a4 0 x2_re_a4 p4 0 0.1414213562373095
Fx2_re_a4 0 x2_re_a4 V4 7.0710678118654755
Rp2_re_re_a4 0 x2_re_a4 3.7969162030373554e-10
Gp2_re_im_a4 0 x2_re_a4 x2_im_a4 0 181012346180.185
Cx2_im_a4 x2_im_a4 0 1.0
Gp2_im_re_a4 0 x2_im_a4 x2_re_a4 0 -181012346180.185
Rp2_im_im_a4 0 x2_im_a4 3.7969162030373554e-10
Cx3_re_a4 x3_re_a4 0 1.0
Gx3_re_a4 0 x3_re_a4 p4 0 0.1414213562373095
Fx3_re_a4 0 x3_re_a4 V4 7.0710678118654755
Rp3_re_re_a4 0 x3_re_a4 1.627628402022312e-11
Gp3_re_im_a4 0 x3_re_a4 x3_im_a4 0 148802727040.73685
Cx3_im_a4 x3_im_a4 0 1.0
Gp3_im_re_a4 0 x3_im_a4 x3_re_a4 0 -148802727040.73685
Rp3_im_im_a4 0 x3_im_a4 1.627628402022312e-11
Cx4_re_a4 x4_re_a4 0 1.0
Gx4_re_a4 0 x4_re_a4 p4 0 0.1414213562373095
Fx4_re_a4 0 x4_re_a4 V4 7.0710678118654755
Rp4_re_re_a4 0 x4_re_a4 1.0646375318834093e-09
Gp4_re_im_a4 0 x4_re_a4 x4_im_a4 0 97586624033.14746
Cx4_im_a4 x4_im_a4 0 1.0
Gp4_im_re_a4 0 x4_im_a4 x4_re_a4 0 -97586624033.14746
Rp4_im_im_a4 0 x4_im_a4 1.0646375318834093e-09
Cx5_re_a4 x5_re_a4 0 1.0
Gx5_re_a4 0 x5_re_a4 p4 0 0.1414213562373095
Fx5_re_a4 0 x5_re_a4 V4 7.0710678118654755
Rp5_re_re_a4 0 x5_re_a4 2.107635255400134e-08
Gp5_re_im_a4 0 x5_re_a4 x5_im_a4 0 1602697825.6270552
Cx5_im_a4 x5_im_a4 0 1.0
Gp5_im_re_a4 0 x5_im_a4 x5_re_a4 0 -1602697825.6270552
Rp5_im_im_a4 0 x5_im_a4 2.107635255400134e-08
Cx6_a4 x6_a4 0 1.0
Gx6_a4 0 x6_a4 p4 0 0.07071067811865475
Fx6_a4 0 x6_a4 V4 3.5355339059327378
Rp6_a4 0 x6_a4 1.751230760539869e-08
Cx7_re_a4 x7_re_a4 0 1.0
Gx7_re_a4 0 x7_re_a4 p4 0 0.1414213562373095
Fx7_re_a4 0 x7_re_a4 V4 7.0710678118654755
Rp7_re_re_a4 0 x7_re_a4 1.7417078319134196e-08
Gp7_re_im_a4 0 x7_re_a4 x7_im_a4 0 791675849.8813201
Cx7_im_a4 x7_im_a4 0 1.0
Gp7_im_re_a4 0 x7_im_a4 x7_re_a4 0 -791675849.8813201
Rp7_im_im_a4 0 x7_im_a4 1.7417078319134196e-08
Cx8_re_a4 x8_re_a4 0 1.0
Gx8_re_a4 0 x8_re_a4 p4 0 0.1414213562373095
Fx8_re_a4 0 x8_re_a4 V4 7.0710678118654755
Rp8_re_re_a4 0 x8_re_a4 1.6350560524740535e-08
Gp8_re_im_a4 0 x8_re_a4 x8_im_a4 0 388357403.4016997
Cx8_im_a4 x8_im_a4 0 1.0
Gp8_im_re_a4 0 x8_im_a4 x8_re_a4 0 -388357403.4016997
Rp8_im_im_a4 0 x8_im_a4 1.6350560524740535e-08
.ENDS s_equivalent
